US07872017B2
5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole
A flask containing 5-bromo-1H-indazole (Ref. US 2003199511, 9.45 g, 48 mmol) and bis(pinacolato)diboron (Aldrich, 15.5 g, 61 mmol) in dry DMF (160 mL) was added KOAc (16.7 g, 170 mmol). The mixture was degassed and purged with N2 three times followed by the addition of PdCl2(dppf).CH2Cl2 (Aldrich, 985 mg, 1.21 mmol). The mixture was heated to 90° C. and stirred for 24 hours. The mixture was cooled to ambient temperature, diluted with ethyl acetate (250 mL), washed with water (2×50 mL). The organic phase was concentrated under reduced pressure and the residue was purified by chromatography (400 g SiO2, hexane:EtOAc 90:10, Rf-0.6) to provide the title compound. 1H NMR (300 MHz, CD3OD) δ 1.36 (s, 12H), 7.51 (dt, J=8.48, 1.02 Hz, 1H), 7.73 (dd, J=8.48, 1.02 Hz, 1H), 8.08 (d, J=1.02 Hz, 1H), 8.23 (t, J=1.02 Hz, 1H) ppm. MS (DCI/NH3): m/z 245 (M+H)+.

reactant | 5-bromo-1H-indazole | 48 mmol, 9.45 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | bis(pinacolato)diboron | 61 mmol, 15.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 170 mmol, 16.7 g | CC(=O)[O-].[K+]
reactant | CH2Cl2 | 1.21 mmol, 985 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 160 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | CC1(OB(OC1(C)C)C=1C=C2C=NNC2=CC1)C | C13H17BN2O2
